US06740684B2
Preparation of Thioacetylpropyl Acetamide
58 g of thioacetic acid are placed in a flask. 350 g of a 15 percent solution of sodium ethoxide in ethanol is added drop by drop under cooling by nitrogen and ice. Afterwards 320 g of a 12.4 percent solution of 3-chloropropylamine hydrochloride in ethanol are added to the above solution. The mixture is heated under reflux for 1 hour, cooled to room temperature and filtrated. The ethanol is evaporated and the residue is dissolved in acetone to precipitate any residual sodium chloride. After filtration the acetone is removed. Thioacetylpropyl acetamide remains as viscous oil.

reactant | thioacetic acid | 58 g | C(C)(=S)O | C2H4OS
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 3-chloropropylamine hydrochloride | Cl.ClCCCN
reactant | ethanol | C(C)O | C2H6O
product | Thioacetylpropyl Acetamide | C(C)(=S)CCCCC(=O)N | C7H13NOS
